US09303012B2
b) (2S)-4-Hydroxy-4-methylpyrrolidine-2-carboxamide hydrochloride
A solution of (2S)-tert-butyl 2-carbamoyl-4-hydroxy-4-methylpyrrolidine-1-carboxylate (Example 132 a, 46 mg, 188 μmol) in a solution of 4 M HCl in dioxane (942 μL, 3.8 mmol) was stirred at ambient temperature for 5 h. The solvent was removed in vacuo to give the title compound (36 mg, quant.) as light brown solid, MS (ESI) m/e=145.2 [MH+].

reactant | (2S)-tert-butyl 2-carbamoyl-4-hydroxy-4-methylpyrrolidine-1-carboxylate | C(N)(=O)[C@H]1N(CC(C1)(C)O)C(=O)OC(C)(C)C | C11H20N2O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 3.8 mmol, 942 μL | O1CCOCC1 | C4H8O2
product | (2S)-4-Hydroxy-4-methylpyrrolidine-2-carboxamide hydrochloride | 36 mg | Cl.OC1(C[C@H](NC1)C(=O)N)C | InChI=1S/C6H12N2O2.ClH/c1-6(10)2-4(5(7)9)8-3-6;/h4,8,10H,2-3H2,1H3,(H2,7,9);1H/t4-,6?;/m0./s1
